US05495046
0.31 ml of thionyl chloride was added under ice-cooling to a solution of 0.86 g of 4-[5-chloro-2-(2-phenylethoxy)phenyl]butanol and 4 ml of hexamethylphosphoric triamide in 20 ml of tetrahydrofuran and the resulting mixture was stirred at room temperature for 2 hours. The reaction mixture was poured into water (100 ml), extracted with ethyl acetate, successively washed with water twice and a saturated aqueous solution of sodium hydrogencarbonate 4 times and dried over anhydrous magnesium sulfate. After evaporation of the solvent under reduced pressure, 0.91 g of crude 4-chloro-2-(4-chlorobutyl)-1-(2-phenylethoxy)benzene was obtained. This compound was not purified any more but used in the subsequent reaction.

reactant | thionyl chloride | 0.31 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 4-[5-chloro-2-(2-phenylethoxy)phenyl]butanol | 0.86 g | ClC=1C=CC(=C(C1)CCCCO)OCCC1=CC=CC=C1 | C18H21ClO2
reactant | hexamethylphosphoric triamide | 4 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
reactant | water | 100 ml | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 4-chloro-2-(4-chlorobutyl)-1-(2-phenylethoxy)benzene | 0.91 g | ClC1=CC(=C(C=C1)OCCC1=CC=CC=C1)CCCCCl | C18H20Cl2O
